US03998834
To 194 parts of 1,1'-oxybisethane are added 9.1 parts of lithium aluminium hydride while nitrogen gas is introduced. Then there is added dropwise, during a 2 hours-period, a solution of 14.9 parts of 1-methyl-1H-pyrrole-2-acetic acid in 105 parts of 1,1'-oxybisethane (exothermic reaction). Upon completion, stirring is continued for 8 hours at reflux temperature and for 8 hours at room temperature. The reaction mixture is cooled in an ice-salt bath and decomposed by successive dropwise additions of 9.5 parts of water, 8.5 parts of a sodium hydroxide solution 20% and again 33.3 parts of water. The precipitated product is filtered off and suspended in 1,1'-oxybisethane. The combined 1,1'-oxybisethane phases are dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (93:7) as eluent. The pure fractions are collected and the eluent is evaporated, yielding 9.5 parts (69%) of 1-methyl-1H-pyrrole- 2-ethanol as a residue.

reactant | 1,1'-oxybisethane | O(CC)CC | C4H10O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-methyl-1H-pyrrole-2-acetic acid | CN1C(=CC=C1)CC(=O)O | C7H9NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-methyl-1H-pyrrole- 2-ethanol | 69% | CN1C(=CC=C1)CCO | C7H11NO
